US04153607
21 parts of cyanamide and 83 parts of ethyl thiobenzoate are successively introduced into a solution of 12.5 parts of sodium in 260 parts of ethanol, and the mixture is refluxed for one hour at 78° C. It is then left to stand for 12 hours, 40 parts of chloroacetonitrile are added, and the reaction mixture is refluxed for one hour at 78° C. The product is precipitated by means of 300 parts of water, and filtered off. 78 parts of 2-phenyl-4-amino-5-cyano-thiazole (78% of theory) of melting point 178°-179° C. are obtained.

reactant | cyanamide | N#CN | CH2N2
reactant | ethyl thiobenzoate | C(C1=CC=CC=C1)(=S)OCC | C9H10OS
reactant | sodium | [Na] | Na
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
solvent | ethanol | C(C)O | C2H6O
product | 2-phenyl-4-amino-5-cyano-thiazole | 78% | C1(=CC=CC=C1)C=1SC(=C(N1)N)C#N | C10H7N3S
